US03932167
Preparation of 2-Amino-4-benzylamino-6-(trichloromethyl)-s-triazine
In a similar manner, substituting aqueous methylamine for ammonia, 2-benzylamino-4-methylamino-6-(trichloromethyl)-s-triazine m.p. 86°-87° was prepared.

reactant | methylamine | CN | CH5N
reactant | ammonia | N | H3N
reactant | 2-benzylamino-4-methylamino-6-(trichloromethyl)-s-triazine | C(C1=CC=CC=C1)NC1=NC(=NC(=N1)NC)C(Cl)(Cl)Cl | C12H12Cl3N5
product | 2-Amino-4-benzylamino-6-(trichloromethyl)-s-triazine | NC1=NC(=NC(=N1)NCC1=CC=CC=C1)C(Cl)(Cl)Cl | C11H10Cl3N5
